US08809317B2
4.5.10.3 Synthesis of 3-(bis(2-methoxyethyl)amino)-7-(pyrrolidin-1-yl)phenothiazin-5-ium iodide
The 3-aminophenothiazin-5-ium triiodide was dissolved in DMF (40 mL) and Cs2CO3 was added followed by pyrrolidine (3 mL, 3 mmol). The resulting reaction mixture was stirred rapidly at room temperature for 48 h. The solvent was evaporated and the residue was dissolved in a 3:1 mixture of CHCl3/MeOH. The mixture was filtered and the solvent evaporated to give a residue, which was purified by flash silica gel chromatography to give a dark solid.

reactant | 3-aminophenothiazin-5-ium triiodide | [I-].[I-].[I-].NC=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.NC=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.NC=1C=CC2=NC3=CC=CC=C3[S+]=C2C1
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | pyrrolidine | 3 mmol, 3 mL | N1CCCC1 | C4H9N
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-(bis(2-methoxyethyl)amino)-7-(pyrrolidin-1-yl)phenothiazin-5-ium iodide | [I-].COCCN(C=1C=CC2=NC3=CC=C(C=C3[S+]=C2C1)N1CCCC1)CCOC | InChI=1S/C22H28N3O2S.HI/c1-26-13-11-25(12-14-27-2)18-6-8-20-22(16-18)28-21-15-17(5-7-19(21)23-20)24-9-3-4-10-24;/h5-8,15-16H,3-4,9-14H2,1-2H3;1H/q+1;/p-1
